US06150373
A solution of 250 mg (0.44 mmol) of 3-(2-bromophenyl)-3,4-dihydro-7-(methanesulfonyl)-1-[3-(methanesulfonyloxymethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one in 10 ml of dimethylformamide was treated with 111 mg (0.6 mmol) of potassium phthalimide and the mixture heated at 90° C. for 1 hour then cooled and evaporated. The residue was partitioned between 30 ml of dichloromethane and 30 ml of water. The organic phase was collected, dried over magnesium sulfate, filtered and evaporated to afford 270 mg (99%) of 3-(2-bromophenyl)-3,4-dihydro-7-(methanesulfonyl)-1-[3-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid. [Mass spectrum (ESI) MH+ =618].

reactant | 3-(2-bromophenyl)-3,4-dihydro-7-(methanesulfonyl)-1-[3-(methanesulfonyloxymethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.44 mmol, 250 mg | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC(=CC=C1)COS(=O)(=O)C)=O | C21H19BrN4O6S2
reactant | potassium phthalimide | 0.6 mmol, 111 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(2-bromophenyl)-3,4-dihydro-7-(methanesulfonyl)-1-[3-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 270 mg, 99% | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC(=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C28H20BrN5O5S
